US04740228
A 10% solution of methyl 2-cyano-2-phenylacetate in benzene is saturated with ammonia under ice cooling. The reaction mixture is allowed to stand at room temperature for 2 hours, and then the product is filtered off. 2-Cyano-2-phenylacetic acid amide is obtained with a yield of 75%; m.p.: 148.5°-150° C.

reactant | methyl 2-cyano-2-phenylacetate | C(#N)C(C(=O)OC)C1=CC=CC=C1 | C10H9NO2
reactant | ammonia | N | H3N
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2-Cyano-2-phenylacetic acid amide | yield of 75% | C(#N)C(C(=O)N)C1=CC=CC=C1 | C9H8N2O
